US09376449B2
To a mixture of ethyl 3-(2-acetamidoethyl)-5-methoxy-1H-indole-2-carboxylate (350 mg), tetrahydrofuran (5.00 mL), and ethanol (5.00 mL) was added a 1 M aqueous sodium hydroxide solution (2.00 mL), followed by stirring at room temperature for 1 hour. The solvent was evaporated under reduced pressure, and the obtained residue was dissolved in water and adjusted to be weakly acidic by the addition of 1 M hydrochloric acid. The precipitated solid was collected by filtration and then dried to obtain 3-(2-acetamidoethyl)-5-methoxy-1H-indole-2-carboxylic acid (300 mg) as a gray solid.

reactant | ethyl 3-(2-acetamidoethyl)-5-methoxy-1H-indole-2-carboxylate | 350 mg | C(C)(=O)NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)OCC | C16H20N2O4
reactant | tetrahydrofuran | 5.00 mL | O1CCCC1 | C4H8O
reactant | sodium hydroxide | 1 M, 2.00 mL | [OH-].[Na+]
solvent | ethanol | 5.00 mL | C(C)O | C2H6O
product | 3-(2-acetamidoethyl)-5-methoxy-1H-indole-2-carboxylic acid | 300 mg | C(C)(=O)NCCC1=C(NC2=CC=C(C=C12)OC)C(=O)O | C14H16N2O4
